US04935511
A mixture of 10.9 g (54 mmol) of methyl 4-amino-5-chlorosalicylate hydrochloride diluted with 250 ml pyridine is stirred at 0° C. and treated with 17 g (0.22 mol, 16 mls) of acetyl chloride over a 10 minute period. A ppt. begins to form and the mixture is stirred 30 minutes longer at 0° C. This is then treated with 30 ml H2O and stirred for 5 minutes after which time the ppt. dissolves. The mixture is diluted with CH2Cl2 (500 ml), washed with H2O (500 ml) and 10% HCl (4×300 ml). The organic layer is dried (MgSO4) and evaporated to dryness to obtain crude product which is recrystallyzed from ethylacetate-hexane to obtain pure methyl 2-acetoxy-4-acetylamino-5-chlorobenzoate; m.p. 134°-36° C.

reactant | methyl 4-amino-5-chlorosalicylate hydrochloride | 54 mmol, 10.9 g | Cl.NC=1C=C(C(C(=O)OC)=CC1Cl)O
reactant | acetyl chloride | 0.22 mol, 16 mls, 17 g | C(C)(=O)Cl | C2H3ClO
reactant | H2O | 30 ml | O | H2O
reactant | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-acetoxy-4-acetylamino-5-chlorobenzoate | C(C)(=O)OC1=C(C(=O)OC)C=C(C(=C1)NC(C)=O)Cl | C12H12ClNO5
